US04652651
11.9 g (44 mmol) of potassium peroxydisulphate and 9.6 g of dipotassium hydrogen phosphate are dispersed in 110 ml of acetonitrile and 350 ml of water. The mixture is heated to 78° C. and a solution of 11.8 g (27.6 mmol) of benzyl (3S,4S)-1-(2,4-dimethoxybenzyl)-4-[(methoxyimino)methyl]-2-oxo-3-azetidinecarbamate (mixture of the E and Z isomers) in 300 ml of acetonitrile is added dropwise thereto. The pH of the solution is held at 7 by the addition of dipotassium hydrogen phosphate. After boiling for 6 hours, the mixture is cooled, the aqueous phase is discarded, the organic phase is diluted with ethyl acetate and washed successively with water, aqueous sodium bicarbonate solution and sodium chloride solution. After drying over sodium sulphate, the solvent is removed by evaporation and the crude mixture is chromatographed [230-400 mesh, ethyl acetate/n-hexane (8:2)], there being obtained 1.7 g (27%) of benzyl (3S,4S)-4-[(methoxyimino)methyl]-2-oxo-3-azetidinecarbamate (mixture of the E and Z isomers); melting point 170°-171° C.

reactant | potassium peroxydisulphate | 44 mmol, 11.9 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | dipotassium hydrogen phosphate | 9.6 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | benzyl (3S,4S)-1-(2,4-dimethoxybenzyl)-4-[(methoxyimino)methyl]-2-oxo-3-azetidinecarbamate | 27.6 mmol, 11.8 g | COC1=C(CN2C([C@H]([C@H]2C=NOC)NC(=O)OCC2=CC=CC=C2)=O)C=CC(=C1)OC | C22H25N3O6
solvent | acetonitrile | 110 ml | C(C)#N | C2H3N
solvent | water | 350 ml | O | H2O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (3S,4S)-4-[(methoxyimino)methyl]-2-oxo-3-azetidinecarbamate | 1.7 g, 27% | CON=C[C@@H]1[C@@H](C(N1)=O)NC(=O)OCC1=CC=CC=C1 | C13H15N3O4
